US09029295B2
Production of 4-(2,6-diethyl-4-methylphenyl)-6-hydroxymethyl-5-benzyloxy-2-methyl-3(2H)-pyridazinone (Compound (I-29))
To a solution of 4-(2,6-diethyl-4-methylphenyl)-6-methoxymethoxymethyl-5-benzyloxy-2-methyl-3(2H)-pyridazinone (2.3 g, 4.91 mmol) in methanol (15 ml) was added concentrated hydrochloric acid (2 ml) and water (1 ml), and stirred at 65° C. for 75 minutes. After cooling to room temperature, the mixture was neutralized with 2N aqueous sodium hydroxide solution, and extracted with ethyl acetate 2 times. The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give 1.64 g of Compound (I-29) (yield: 85%) as solid.

reactant | 4-(2,6-diethyl-4-methylphenyl)-6-methoxymethoxymethyl-5-benzyloxy-2-methyl-3(2H)-pyridazinone | 4.91 mmol, 2.3 g | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1OCC1=CC=CC=C1)COCOC)C)=O | C26H32N2O4
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | water | 1 ml | O | H2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 4-(2,6-diethyl-4-methylphenyl)-6-hydroxymethyl-5-benzyloxy-2-methyl-3(2H)-pyridazinone | 1.64 g, yield: 85% | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1OCC1=CC=CC=C1)CO)C)=O | C24H28N2O3
